US08440679B2
3-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methyl-benzoic acid [12]
A solution of 3-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methyl-benzoic acid methyl ester (100 mg, 0.343 mmol] in 3 ml of mixed solvent [1:0.3:0.5 THF/water/methanol] was treated with lithium hydroxide (12.25 mg, 0.514 mmol]. The reaction mixture was stirred at room temperature for 6 hours, concentrated and acidified [pH=4] with 2M HCl. The precipitate obtained was filtered, washed with water and dried under vacuum. The crude material was washed with ether, air dried overnight to give desired product. i.e., 3-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methyl-benzoic acid [12] as yellow colored solid. On the basis of mass recovery (93.2 mg) the yield was assumed to be quantitative.

reactant | 3-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)N1CCC2(OCCO2)CC1)=O | C16H21NO4
reactant | lithium hydroxide | [OH-].[Li+]
product | 3-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methyl-benzoic acid | O1CCOC12CCN(CC2)C=2C=C(C(=O)O)C=CC2C | C15H19NO4
